US04322429
5-(4-CHLOROPHENYL)-3-ISOXAZOLECARBOXAMIDE
Ethyl-5-(4-chlorophenyl)-3-isoxazolecarboxylate (139 grams) and 1.5 l. of conc. aqueous ammonium hydroxide were placed in a 2 l. 3-necked flask and stirred with a mechanical stirrer for 3 days. Following this, the reaction mixture was poured into 2 l. of water, filtered, and washed with water. The resulting dry solid was swirled with 1.6 l. of chloroform for 1/2 hour, filtered, and then dried in a vacuum oven for 3 hours, m.p. 224°-225° C.

reactant | Ethyl-5-(4-chlorophenyl)-3-isoxazolecarboxylate | 139 grams | C(C)OC(=O)C1=NOC(=C1)C1=CC=C(C=C1)Cl | C12H10ClNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-(4-CHLOROPHENYL)-3-ISOXAZOLECARBOXAMIDE | ClC1=CC=C(C=C1)C1=CC(=NO1)C(=O)N | C10H7ClN2O2
